US04886835
The procedure is as in Example 29 for the preparation of ethyl (4-methylbenzylthio)acetate, starting with 2,4,6-trimethylbenzyl chloride (10.25 g), a 2M ethanolic solution of sodium ethylate (32.5 cc) and ethyl 2-mercaptoacetate (7.1 g) in ethanol (150 cc). Ethyl (2,4,6-trimethylbenzylthio)acetate (11 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (4-methylbenzylthio)acetate | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
reactant | 2,4,6-trimethylbenzyl chloride | 10.25 g | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
reactant | sodium ethylate | 32.5 cc | CC[O-].[Na+]
reactant | ethyl 2-mercaptoacetate | 7.1 g | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | Ethyl (2,4,6-trimethylbenzylthio)acetate | 11 g | CC1=C(CSCC(=O)OCC)C(=CC(=C1)C)C | C14H20O2S
